US06380397B1
A. Preparation of 2-Ethyl-1,5,6,7-tetrahydro-1-(phenylmethyl)-4H-indol-4-one
2-(2-oxobutyl)cyclohexane-1,3-dione (1000 gms, 4.995 moles) was suspended in toluene (6000 ml, 6 vol). The mixture was warmed to 85 deg c and stirred for 5 minutes. Benzylamine (562.6 gms, 5.25 moles, 1.05 eq) was added dropwise over 30-45 minutes. Following the addition the mixture turned to an amber colored solution. Heat was applied to the solution and water was azeotroped off until the reaction temperature reached 110° C. The reaction was allowed to stir at 110° C. for 2 hrs at which time ˜4000 mls of solvent was distilled off at atmospheric pressure. Solution was transferred to a flask and further evaporated to an amber viscous oil which was used directly in the following step.

reactant | 2-(2-oxobutyl)cyclohexane-1,3-dione | 4.995 moles, 1000 gms | O=C(CC1C(CCCC1=O)=O)CC | C10H14O3
reactant | Benzylamine | 5.25 moles, 562.6 gms, 1.05 eq | C(C1=CC=CC=C1)N | C7H9N
reactant | water | O | H2O
solvent | toluene | 6000 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Ethyl-1,5,6,7-tetrahydro-1-(phenylmethyl)-4H-indol-4-one | C(C)C=1N(C=2CCCC(C2C1)=O)CC1=CC=CC=C1 | C17H19NO
